US07589232B2
(4-{[(3-cyclopentylpropanoyl)(4-dec-1-ynylbenzyl)amino]methyl}phenoxy)-acetic acid
The title compound was prepared following the procedure G using methyl (4-{[(4-dec-1-ynylbenzyl)amino]methyl}phenoxy)acetate and 3-cyclopentylpropanoyl chloride (purification by flash chromatography on SiO2, c-Hex/EtOAc 9:1) as a colorless oil (77%). M+ (ESI): 546.1. HPLC, Rt: 6.4 min (purity: 100%). 1H NMR (CDCl3) δ: 7.40 (d, J=8.3 Hz, 1H), 7.34 (d, J=8.0 Hz, 1H), 7.16-7.05 (m, 4H), 6.91 (d, J=8.7 Hz, 1H), 6.85 (d, J=8.3 Hz, 1H), 4.66 (s, 1H), 4.63 (s, 1H), 4.54 (s, 1H), 4.51 (s, 1H), 4.40 (s, 1H). 4.36 (s, 1H), 3.83 (s, 1.5H), 3.82 (s, 1.5H), 2.41 (m, 4H), 1.74-1.08 (m, 23H), 0.90 (t, J=6.4 Hz, 3H).

reactant | methyl (4-{[(4-dec-1-ynylbenzyl)amino]methyl}phenoxy)acetate | C(#CCCCCCCCC)C1=CC=C(CNCC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C27H35NO3
reactant | 3-cyclopentylpropanoyl chloride | C1(CCCC1)CCC(=O)Cl | C8H13ClO
product | (4-{[(3-cyclopentylpropanoyl)(4-dec-1-ynylbenzyl)amino]methyl}phenoxy)-acetic acid | C1(CCCC1)CCC(=O)N(CC1=CC=C(C=C1)C#CCCCCCCCC)CC1=CC=C(OCC(=O)O)C=C1 | C34H45NO4
